US05750764
Aluminium chloride (1,62 g, 12,2 mmol) was added in 3 portions to a solution of 2-methoxynaphthalene (1,28 g, 8,09 mmol) in tetrahydrohydrofuran (20 mL) at 5° C. Ethyl pyruvate (1,41 g, 12,2 mmol) in tetrahydrofuran (10 mL) was added oveer 1 hour at this temperature. The reaction was allowed to proceed for 1 hour and warmed to 20° C. for 1 hour. Ethyl 2-hydroxy-2-(6-methoxynaphth-6-yl)propionate was formed in 2% yield with 98% recovery of the starting material.

reactant | Aluminium chloride | 12,2 mmol, 1,62 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methoxynaphthalene | 8,09 mmol, 1,28 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | Ethyl pyruvate | 12,2 mmol, 1,41 g | C(C(=O)C)(=O)OCC | C5H8O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Ethyl 2-hydroxy-2-(6-methoxynaphth-6-yl)propionate | 2% yield | OC(C(=O)OCC)(C)C1(CC=2C=CC=CC2C=C1)OC | C16H20O4
